US08729078B2
In a 25 mL round-bottomed flask, 6-bromo-1H-pyrrolo[2,3-b]pyridine (250 mg, 1.27 mmol, Eq: 1.00), TIPS-OTf (972 mg, 860 μl, 3.17 mmol, Eq: 2.5) and DIEA (492 mg, 665 μl, 3.81 mmol, Eq: 3) were combined with dioxane (6.25 ml) to give a light brown solution. The reaction mixture was heated to 55° C. and stirred for 16 h. The reaction mixture was poured into 20 mL EtOAc and extracted with sat NaHCO3 (3×10 mL). The organic layers were dried over MgSO4 and concentrated in vacuo. The crude material was purified by flash chromatography (silica gel, 12 g, 5% to 10% EtOAc in hexanes) to give 6-bromo-1-(triisopropylsilyl)-1H-pyrrolo[2,3-b]pyridine (380 mg, 85%) of colorless oil.

reactant | 6-bromo-1H-pyrrolo[2,3-b]pyridine | 1.27 mmol, 250 mg | BrC1=CC=C2C(=N1)NC=C2 | C7H5BrN2
reactant | TIPS-OTf | 3.17 mmol, 860 μl, 972 mg | [Si](C(C)C)(C(C)C)(C(C)C)OS(=O)(=O)C(F)(F)F | C10H21F3O3SSi
reactant | DIEA | 3.81 mmol, 665 μl, 492 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | dioxane | 6.25 ml | O1CCOCC1 | C4H8O2
solvent | EtOAc | 20 mL | CCOC(=O)C | C4H8O2
product | 6-bromo-1-(triisopropylsilyl)-1H-pyrrolo[2,3-b]pyridine | 380 mg, 85% | BrC1=CC=C2C(=N1)N(C=C2)[Si](C(C)C)(C(C)C)C(C)C | C16H25BrN2Si
